US04472305
Condensation of BocMePheOH (5.0 g.) and HGlyOBz (3.75 g.) by the mixed anhydride method using isobutyl chloroformate gave BocMePhe-GlyOBz in 52% yield. De-t-butoxycarbonylation of BocMePhe-GlyOBz (2.0 g.) using hydrogen chloride in ethyl acetate gave HMePhe-GlyOBz in 95% yield.

reactant | BocMePheOH | 5.0 g | C(=O)(OC(C)(C)C)N([C@@H](CC1=CC=CC=C1)C(=O)O)C | C15H21NO4
reactant | HGlyOBz | 3.75 g | NCC(=O)OC(=O)C1=CC=CC=C1 | C9H9NO3
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
product | BocMePhe-GlyOBz | 52% yield | C(=O)(OC(C)(C)C)N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)OC(=O)C1=CC=CC=C1)C | C24H28N2O6
